US09353108B2
F) 2-Cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-carbaldehyde
Manganese dioxide (60.4 g) was added to a mixture of (2-cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methanol (29.8 g) and toluene (200 mL), and the resultant mixture was stirred at 60° C. for 1 hour in a nitrogen atmosphere. The reaction mixture was filtered, and then, the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (22.1 g).

reactant | (2-cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-yl)methanol | 29.8 g | C1(CC1)C1=C(C(=CC(=C1)CO)OCCC)C1=CC=C(C=C1)F | C19H21FO2
catalyst | Manganese dioxide | 60.4 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-4′-fluoro-6-propoxybiphenyl-4-carbaldehyde | 22.1 g | C1(CC1)C1=C(C(=CC(=C1)C=O)OCCC)C1=CC=C(C=C1)F | C19H19FO2
